US05055465
1-Ethyl-6-[((2-(morpholin-4-yl)ethyl)amino)methyl]imidazo[1,2-a]-quinoxalin-4(5H)-one
Treat 3-fluoro-2-nitrobenzoic acid methylester with 1-trityl-4-ethyl imidazole, followed by treatment with 4-(2-aminoethyl)morpholine and catalytic hydrogenation cyclization with carbonyldiimidazole, followed by reduction with lithium aluminum hydride to provide the title compound.

reactant | 3-fluoro-2-nitrobenzoic acid methylester | COC(C1=C(C(=CC=C1)F)[N+](=O)[O-])=O | C8H6FNO4
reactant | 1-trityl-4-ethyl imidazole | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)CC | C24H22N2
reactant | 4-(2-aminoethyl)morpholine | NCCN1CCOCC1 | C6H14N2O
reactant | carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 1-Ethyl-6-[((2-(morpholin-4-yl)ethyl)amino)methyl]imidazo[1,2-a]-quinoxalin-4(5H)-one | C(C)C1=CN=C2N1C1=CC=CC(=C1NC2=O)CNCCN2CCOCC2 | C19H25N5O2
